US08580762B2
N-(2-amino-4-(trifluoromethoxy)phenyl)-3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide
To a solution of 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanoic acid (1.2 g, 2.91 mmol), HATU (2.17 g, 5.83 mmol) and HOAT (0.91 g, 5.83 mmol) in DCM (17 mL) were added 4-(trifluoromethoxy)benzene-1,2-diamine (1.1 g, 5.83 mmol) and TEA (2.05 mL, 14.56 mmol). The mixture was stirred at rt overnight. The mixture was diluted with DCM (50 mL) and washed with water (15 mL×3) and brine (30 mL). The organic phase was dried over Na2SO4, filtered and concentrated. The residue was purified by Combi-Flash (40 g silica gel, start EA:DCM MeOH=10:10:0 to 10:10:8 by gradient, 40 mL/min, 50 min, 2.0 L total solvent volume) to afford the desired compound (1.0 g, yield: 60%) as a yellow solid. 1H NMR (500 MHz, MeOD): δH 8.29 (s, 1H), 8.25-8.24 (m, 1H), 7.20-7.13 (m, 1H), 6.95-6.85 (m, 0.4H), 6.73 (brs, 0.8H), 6.54 (d, J=7.5 Hz, 0.8H), 6.22 (d, J=2.0 Hz, 1H), 5.60-5.55 (m, 1H), 5.03-5.00 (m, 1H), 4.40-4.35 (m, 1H), 3.40-3.35 (m, 0.3H), 3.00-2.92 (m, 0.7H), 2.70-2.47 (m, 3H), 2.36-2.28 (m, 2H), 2.20-1.80 (m, 6H), 1.76-1.66 (m, 2H), 1.60 (s, 3H), 1.40 (s, 3H), 1.26-1.16 (m, 1H) ppm; ESI-MS (m/z): 621.3 [M+1]+.

reactant | 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanoic acid | 2.91 mmol, 1.2 g | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)O)C | C21H30N6O5
reactant | HATU | 5.83 mmol, 2.17 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAT | 5.83 mmol, 0.91 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 4-(trifluoromethoxy)benzene-1,2-diamine | 5.83 mmol, 1.1 g | FC(OC=1C=C(C(=CC1)N)N)(F)F | C7H7F3N2O
solvent | DCM | 17 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(2-amino-4-(trifluoromethoxy)phenyl)-3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanamide | 1.0 g, yield: 60% | NC1=C(C=CC(=C1)OC(F)(F)F)NC(CCC1CC(C1)N(C)C[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)N)=O | C28H35F3N8O5
